US07943607B2
3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid
A mixture of 3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid (0.245 g, 1.08 mmol), 8-fluoro-3,4-dihydro-2H-1,5-benzoxathiepine 5,5-dioxide (235 mg, 1.08 mmol) and potassium carbonate (299 mg, 2.17 mmol) in acetonitrile (7.8 mL) was heated in a microwave reactor at 160° C. for 5 hours. The mixture was reduced in vacuo and the residue purified by preparative HPLC (on a C18 reversed phase using 5-95% acetonitrile (+0.2% TFA) in water (+0.2% TFA) as eluant) to give the desired compound as a beige solid (222 mg). 1H NMR δ (d6-DMSO): 1.22 (d, 3H), 2.22-2.24 (m, 2H), 3.17 (s, 3H), 3.43-3.58 (m, 4H), 4.03-4.16 (m, 1H), 4.16-4.25 (m, 2H), 4.63-4.73 (m, 1H), 6.80-6.85 (m, 1H) 6.90-7.01 (m, 2H), 7.15 (s, 1H), 7.35 (s, 1H), 7.83 (d, 1H); m/z 421 (M−H)−

reactant | 3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 1.08 mmol, 0.245 g | OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C11H14O5
reactant | 8-fluoro-3,4-dihydro-2H-1,5-benzoxathiepine 5,5-dioxide | 1.08 mmol, 235 mg | FC1=CC2=C(S(CCCO2)(=O)=O)C=C1 | C9H9FO3S
reactant | potassium carbonate | 2.17 mmol, 299 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7.8 mL | C(C)#N | C2H3N
product | 3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 222 mg | O=S1(CCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC)C)=O | C20H22O8S
